US05672620
7-tert-Butyl-2,3-dihydro-3,3-dimethyl-5-(imino-1-pyrrolidinylmethyl)-benzofuran hydrochloride
To a solution of ethyl 7-tert-butyl-2,3-dihydro-3,3-dimethylbenzofuran-5-carboximidic acid hydrochloride (400 mg, 1.29 mmol) in dioxane (10 mL) is added excess pyrrolidine (0.6 mL). A color change from red to yellow is observed during the addition, and a precipitate forms. The reaction is also monitored by TLC (10% MeOH/CHCl3). After 3 h, the yellow precipitate is collected by filtration and purified by preparative TLC (10% MeOH/CHCl3) to give the desired product as a white powder (210 mg, 54.2%), mp=255°-256° C.

reactant | ethyl 7-tert-butyl-2,3-dihydro-3,3-dimethylbenzofuran-5-carboximidic acid hydrochloride | 1.29 mmol, 400 mg | Cl.C(C)C1OC2=C(C1(C)C)C=C(C=C2C(C)(C)C)C(O)=N
reactant | pyrrolidine | 0.6 mL | N1CCCC1 | C4H9N
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 7-tert-Butyl-2,3-dihydro-3,3-dimethyl-5-(imino-1-pyrrolidinylmethyl)-benzofuran hydrochloride | 210 mg, 54.2% | Cl.C(C)(C)(C)C1=CC(=CC=2C(COC21)(C)C)C(N2CCCC2)=N | InChI=1S/C19H28N2O.ClH/c1-18(2,3)14-10-13(17(20)21-8-6-7-9-21)11-15-16(14)22-12-19(15,4)5;/h10-11,20H,6-9,12H2,1-5H3;1H
